US04359420
0.1 g (2 mmol) of sodium hydride (55 percent oil dispersion) are suspended in 10 ml of dry dimethylformamide and treated with 0.5 g (1.7 mmol) of ethyl 8-fluoro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate. After completion of the gas evolution, 0.13 ml (2 mmol) of methyl iodide is added and the mixture is stirred at room temperature for 2 hours. The mixture is poured into ca 60 ml of water and extracted three times with 30 ml of chloroform each time. The combined chloroform extracts are washed with ca 30 ml of water, dried over magnesium sulphate and evaporated. After recrystallisation from ethyl acetate, there is obtained ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 196°-197° C.

reactant | sodium hydride | 2 mmol, 0.1 g | [H-].[Na+]
reactant | ethyl 8-fluoro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 1.7 mmol, 0.5 g | FC=1C=CC2=C(C(NCC=3N2C=NC3C(=O)OCC)=O)C1 | C14H12FN3O3
reactant | methyl iodide | 2 mmol, 0.13 ml | CI | CH3I
reactant | water | ca 60 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OCC)C)=O)C1 | C15H14FN3O3
